US08389511B2
tert-Butyl (3R)-3-(isopropyl{[4-(4-methoxybutyl)-2-[(2-methoxyethoxy)methyl]-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate
To a solution of tert-butyl (3R)-3-[{[2-(hydroxymethyl)-4-(4-methoxybutyl)-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (230 mg) in N,N-dimethylformamide (3 ml) were added sodium hydride (50 mg, 55% by weight) and 2-bromoethyl methyl ether (0.11 ml), and the mixture was stirred at 80° C. for 3 hours. To the reaction solution was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The mixture was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (110 mg).

reactant | tert-butyl (3R)-3-[{[2-(hydroxymethyl)-4-(4-methoxybutyl)-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 230 mg | OCC1(OC2=C(N(C1=O)CCCCOC)C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C | C30H44F3N3O7
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 0.11 ml | COCCBr | C3H7BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | tert-Butyl (3R)-3-(isopropyl{[4-(4-methoxybutyl)-2-[(2-methoxyethoxy)methyl]-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate | 110 mg | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(C)COCCOC)=O)CCCCOC)C1)C(F)(F)F | C33H50F3N3O8
